US06951888B2
(g) 1,1-dimethyl-2-(2,4,6-trimethylphenyl)ethylamine
61 g of N-[1,1-dimethyl-2-(2,4,6-trimethylphenyl)ethyl]formamide is refluxed with 35 g of potassium hydroxide in 155 mL ethylene glycol for 9 hours with stirring and, after the reaction has ended, the mixture is poured onto 1 kg of ice. The aqueous phase is extracted three times with diethyl ether and the solvent is distilled off under reduced pressure. The residue is fractionally distilled. Yield: 48 g (89%); bp15: 135° C.-140° C.

reactant | N-[1,1-dimethyl-2-(2,4,6-trimethylphenyl)ethyl]formamide | 61 g | CC(CC1=C(C=C(C=C1C)C)C)(C)NC=O | C14H21NO
reactant | potassium hydroxide | 35 g | [OH-].[K+]
solvent | ethylene glycol | 155 mL | C(CO)O | C2H6O2
product | 1,1-dimethyl-2-(2,4,6-trimethylphenyl)ethylamine | CC(CC1=C(C=C(C=C1C)C)C)(C)N | C13H21N
